US06855722B2
a) 4-(1H-Indol-5-yl)-butyronitrile
A mixture of 5-bromoindole (0.25 g, 1.25 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.10 g, 0.12 mmol) was stirred under a nitrogen atmosphere for 10 minutes. 3-cyanopropyl zinc bromide [0.5 M in THF] (5.0 mL, 2.50 mmol) was added to the mixture and heated in the microwave at 100° C. for 15 minutes. The solvent was removed and the crude mixture was purified via column chromatography with silica gel, eluting with hexane/ethyl acetate (4/1) to afford the title compound in 63% yield. 1H NMR (CDCl3) δ 8.22 (br, 1H), 7.43 (s, 1H), 7.31 (d, J=8.3 Hz, 1H), 7.18 (s, 1H), 7.00 (d, J=8.3 Hz, 1H), 6.49 (s, 1H), 2.86 (t, J=7.3 Hz, 2H), 2.28 (t, J=7.2 Hz, 2H), 2.02 (m, 2H). Mass Spectrum (LCMS, ESI) calculated for C12H13N2 185.1 (M+H); found 185.1.

reactant | 5-bromoindole | 1.25 mmol, 0.25 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 3-cyanopropyl zinc bromide | 2.50 mmol, 0.5 M, 5.0 mL | [Br-].C(#N)CCC[Zn+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.12 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1H-Indol-5-yl)-butyronitrile | 63% yield | N1C=CC2=CC(=CC=C12)CCCC#N | C12H12N2
